US09215875B2
2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[N-(1-phenylethoxy)ethanimidoyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (I-5)
At room temperature, (1-phenylethoxy)ammonium chloride (91 mg) and Amberlyst A21 (300 mg) are added to a solution of 1-[4-(4-acetyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone (200 mg) in ethanol. The reaction mixture is stirred for 24 hours, and the solvent is then removed under reduced pressure. The residue is separated by column chromatography (silica gel, ethyl acetate:hexane 0%-100% elution gradient). This gives 2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[N-(1-phenylethoxy)ethanimidoyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone (230 mg, 89%) which consists of an about 9:1 mixture of trans and cis isomers (log P (pH2.7)=4.38 (89%), 4.54 (11%).

reactant | (1-phenylethoxy)ammonium chloride | 91 mg | [Cl-].C1(=CC=CC=C1)C(C)O[NH3+]
reactant | 1-[4-(4-acetyl-1,3-thiazol-2-yl)piperidin-1-yl]-2-[5-methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]ethanone | 200 mg | C(C)(=O)C=1N=C(SC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C17H19F3N4O2S
solvent | ethanol | C(C)O | C2H6O
product | 2-[5-Methyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]-1-(4-{4-[N-(1-phenylethoxy)ethanimidoyl]-1,3-thiazol-2-yl}piperidin-1-yl)ethanone | CC1=CC(=NN1CC(=O)N1CCC(CC1)C=1SC=C(N1)C(C)=NOC(C)C1=CC=CC=C1)C(F)(F)F | C25H28F3N5O2S
